US09428503B2
7-Fluoro-1-(cis-3-methoxycyclobutyl)-3-methyl-8-[6-(3-pyrrolidin-1-ylpropoxy)pyridin-3-yl]imidazo[4,5-c]quinolin-2-one
3-(Pyrrolidin-1-yl)propan-1-ol (46.9 mg, 0.36 mmol) was added to sodium hydride (29.1 mg, 1.21 mmol) in THF (4 mL) at ambient temperature over a period of 20 minutes. 7-Fluoro-8-(6-fluoropyridin-3-yl)-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one (120 mg, 0.30 mmol) was added. The resulting mixture was stirred at ambient temperature for 2 h. The reaction mixture was quenched with water and the crude product purified by FCC, elution gradient 0 to 5% MeOH in DCM. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 0.1% formic acid) and MeCN as eluents. Fractious containing the desired compound were evaporated to dryness to afford the desired material (60.0 mg, 38.7%) as a off-white solid. NMR Spectrum: 1H NMR (300 MHz, MeOD) δ 1.90-2.00 (4H, m), 2.10-2.20 (2H, m), 2.81-3.00 (8H, m), 3.04-3.17 (2H, m), 3.28 (3H, s), 3.6 (3H, s), 3.85-3.96 (1H, m), 4.48 (2H, t), 5.00-5.13 (1H, m), 6.88 (1H, d), 7.82 (1H, d), 8.05 (1H, d), 8.43-8.50 (2H, m), 8.83 (1H, s) Mass Spectrum: m/z (ES+)[M+H]+=506.

reactant | 3-(Pyrrolidin-1-yl)propan-1-ol | 0.36 mmol, 46.9 mg | N1(CCCC1)CCCO | C7H15NO
reactant | sodium hydride | 1.21 mmol, 29.1 mg | [H-].[Na+]
reactant | 7-Fluoro-8-(6-fluoropyridin-3-yl)-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one | 0.30 mmol, 120 mg | FC=1C(=CC=2C3=C(C=NC2C1)N(C(N3[C@@H]3C[C@@H](C3)OC)=O)C)C=3C=NC(=CC3)F | C21H18F2N4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-1-(cis-3-methoxycyclobutyl)-3-methyl-8-[6-(3-pyrrolidin-1-ylpropoxy)pyridin-3-yl]imidazo[4,5-c]quinolin-2-one | 60.0 mg, 38.7% | FC=1C(=CC=2C3=C(C=NC2C1)N(C(N3[C@@H]3C[C@@H](C3)OC)=O)C)C=3C=NC(=CC3)OCCCN3CCCC3 | C28H32FN5O3
